* source G(S)_IMPULSE
V_V1         N03512 0  
+PULSE 0 100 0 .001 .001 .01 20
C_C1         N03500 N03496  .1667m  
V_V2         N03492 0 15
C_C2         N03656 0  10.41u  
V_V3         N03688 0 -15
R_R1         N03512 N03500  1k  
X_U2A         N03656 N03496 N03492 N03688 N03496 LM324
R_R2         N03500 N03656  1k  
