* source LAG_DESIGNS
V_V12         N516303 0 15
V_V43         N870110 0 -15
X_U2A         N40893 N40209 N40695 N405034 N40209 LM324
C_C2         N40893 0  10.41u  
X_U7A         0 N87497 N869740 N870110 N87592 LM324
V_V3         N402970 0 -15
R_R2         N41145 N40987  1k  
X_inv_A         0 N51858 N516303 N516304 N51916 LM324
V_V15         N516304 0 -15
R_R1         N40209 N41145  1k  
R_R63         N40987 N87497  1k  
R_R9         N51916 N40393  1k  
R_R10         N40393 N40893  1k  
R_R4         0 N40217  1k  
V_Vin         N52918 0 1Vdc
R_R3         N52918 N40217  1k  
R_R64         0 N87497  1k  
C_C1         N40393 N40209  .1667m  
R_R11         N87592 N51858  1k  
R_R65         N87497 N87592  1k  
X_U3A         N40217 N41145 N40791 N402970 N40987 LM324
V_V2         N40791 0 15
R_R13         N51858 N51916  1k  
V_V42         N869740 0 15
V_V13         N405034 0 -15
V_V14         N40695 0 15
