* source TF_IMPULSE
X_U2A         N40893 N40209 N40695 N405034 N40209 LM324
C_C2         N40893 0  10.41u  
V_V3         N402970 0 -15
R_R2         N41145 N40987  1k  
R_R1         N40209 N41145  1k  
V_V4         N58135 0  
+PULSE 0 10 0 .001 .001 .1 30
R_R9         N40987 N40393  1k  
R_R10         N40393 N40893  1k  
R_R4         0 N40217  1k  
R_R3         N58135 N40217  1k  
C_C1         N40393 N40209  .1667m  
X_U3A         N40217 N41145 N40791 N402970 N40987 LM324
V_V2         N40791 0 15
V_V13         N405034 0 -15
V_V14         N40695 0 15
