* source TF_LAG_STEP
X_U2A         N40893 N40209 N40695 N405034 N40209 LM324
C_C2         N40893 0  10.41u  
R_R2         N41145 N40987  1k  
V_V3         N402970 0 -15
V_V18         N574693 0 15
R_R1         N40209 N41145  1k  
R_R5         N40987 N60093  100000k  
R_R9         N60349 N40393  1k  
V_V17         N71422 0 -15
R_R10         N40393 N40893  1k  
R_R4         0 N40217  1k  
V_Vin         N52918 0 1
X_U4A         0 N60093 N574693 N71422 N60260 LM324
R_R3         N52918 N40217  1k  
C_C6         N40987 N60093  10u  
R_R6         N60093 N60260  1900000k  
C_C1         N40393 N40209  .1667m  
X_U5A         0 N57694 N575153 N73077 N60349 LM324
C_C7         N60093 N60260  10u  
R_R7         N57694 N60349  10k  
X_U3A         N40217 N41145 N40791 N402970 N40987 LM324
V_V2         N40791 0 15
R_R8         N60260 N57694  10k  
V_V13         N405034 0 -15
V_V16         N575153 0 15
V_V14         N40695 0 15
V_V77         N73077 0 -15
