* source TF_PARABOLIC
R_R12         N419351 N41779  1k  
V_V12         N516303 0 15
X_U2A         N40893 N40209 N40695 N405034 N40209 LM324
C_C2         N40893 0  10.41u  
V_V3         N402970 0 -15
R_R2         N41145 N40987  1k  
V_V4         N419351 0  
+PULSE 0 10 0 10 10 1 30
X_inv_A         0 N51858 N516303 N516304 N51916 LM324
V_V15         N516304 0 -15
R_R1         N40209 N41145  1k  
R_R9         N40987 N40393  1k  
C_C3         N41779 N41775  500u  
R_R10         N40393 N40893  1k  
R_R4         0 N40217  1k  
R_R3         N51916 N40217  1k  
C_C1         N40393 N40209  .1667m  
R_R11         N41775 N51858  1k  
X_int_C_A         0 N41779 N418433 N418434 N41775 LM324
V_V16         N418434 0 -15
X_U3A         N40217 N41145 N40791 N402970 N40987 LM324
V_V2         N40791 0 15
R_R13         N51858 N51916  1k  
V_V17         N418433 0 15
V_V13         N405034 0 -15
R_R14         0 N41775  1k  
V_V14         N40695 0 15
