* source TF_PID_PARAB
X_PropA         0 N06272 N08145 N31051 N06285 LM324
R_R12         N419351 N41779  1k  
X_intA         0 N06372 N14067 N06797 N06466 LM324
V_V5         N08145 0 15
X_diffA         0 N06703 N06833 N06825 N06713 LM324
R_R10         N09836 N00016  1k  
C_C1         N09836 N00040  .1667m  
C_C2         N00016 0  10.41u  
V_V12         N516303 0 15
V_V2         N07970 0 15
R_R14         0 N41775  1k  
V_Vin         N419351 0  
+PULSE 0 10 0 10 10 1 30
V_V4         N31051 0 -15
V_V7         N14067 0 15
V_V9         N06833 0 15
X_U7A         0 N06879 N065443 N06829 N07469 LM324
V_V11         N065443 0 15
V_V6         N06797 0 -15
V_V8         N06825 0 -15
V_V10         N06829 0 -15
X_inv_A         0 N51858 N516303 N516304 N51916 LM324
V_V15         N516304 0 -15
V_V14         N00576 0 15
R_R6         N06466 N06879  1k  
C_C3         N41779 N41775  500u  
C_Ci         N06372 N06466  26.85u  
R_R2         N02867 N02862  1k  
R_R11         N41775 N51858  1k  
X_int_C_A         0 N41779 N418433 N418434 N41775 LM324
R_R9         N07469 N09836  1k  
V_V16         N418434 0 -15
C_Cd         N02862 N06703  32.3u  
V_V13         N006784 0 -15
X_U2A         N00016 N00040 N00576 N006784 N00040 LM324
R_R13         N51858 N51916  1k  
R_R1         N00040 N02867  1k  
R_R3         N51916 N02884  1k  
V_V17         N418433 0 15
R_R4         0 N02884  1k  
X_U3A         N02884 N02867 N07970 N028554 N02862 LM324
R_Rp1         N02862 N06272  1k  
R_Rp2         N06272 N06285  1.862k  
R_Ri         N02862 N06372  1k  
R_Rd         N06703 N06713  1k  
R_R5         N06285 N06879  1k  
V_V3         N028554 0 -15
R_R7         N06713 N06879  1k  
R_R8         N06879 N07469  1k  
