* source TF_PID_STEP
X_U2A         N40807 N40209 N40695 N405034 N40209 LM324
R_Ri         N40987 N41027  1k  
V_V12         N55149 0 1Vdc
X_intA         0 N41027 N40929 N40979 N40269 LM324
C_C2         N40807 0  10.41u  
R_R6         N40269 N40213  1k  
R_Rp1         N40987 N40273  1k  
R_R2         N41145 N40987  1k  
V_V3         N402970 0 -15
V_V11         N405510 0 15
V_V10         N40335 0 -15
C_Ci         N41027 N40269  26.85u  
R_R1         N40209 N41145  1k  
V_V9         N40401 0 15
R_R9         N41015 N40393  1k  
R_R10         N40393 N40807  1k  
R_R4         0 N40217  1k  
X_diffA         0 N40255 N40401 N50782 N40277 LM324
R_R3         N55149 N40217  1k  
V_V4         N31051 0 -15
C_C1         N40393 N40209  .1667m  
R_Rd         N40255 N40277  1k  
R_R7         N40277 N40213  1k  
X_U7A         0 N40213 N405510 N40335 N41015 LM324
C_Cd         N40987 N40255  32.3u  
V_V5         N40531 0 15
R_Rp2         N40273 N40521  1.862k  
V_V6         N40979 0 -15
R_R8         N40213 N41015  1k  
X_U3A         N40217 N41145 N40791 N402970 N40987 LM324
X_PropA         0 N40273 N40531 N31051 N40521 LM324
V_V2         N40791 0 15
V_V13         N405034 0 -15
V_V8         N50782 0 -15
R_R5         N40521 N40213  1k  
V_V14         N40695 0 15
V_V7         N40929 0 15
